US05342835
2-Chloro-5-nitrobenzoyl chloride (11 g; 0.05 mole), 1,2-dimethoxybenzene (20 ml; 0.15 mole) and anhydrous ferric chloride (0.5 g) are successively introduced into a flask. The mixture is progressively heated to 150° C., and maintained at this temperature for 1 hour. After cooling, the reaction mixture is poured into 1N HCl (200 ml), then extracted with dichloromethane (3×200 ml). After washing with a sodium bicarbonate solution, the organic phase is dried over MgSO4 and then concentrated under reduced pressure to provide a brown oil. By trituration with pentane (300 ml), 2-chloro-3',4'-dimethoxy-5-nitrobenzophenone (12.5 g; yield: 78%) is isolated in the form of a beige solid of m.p. 138° C. (compound no. 171).

reactant | 2-Chloro-5-nitrobenzoyl chloride | 0.05 mole, 11 g | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | 1,2-dimethoxybenzene | 0.15 mole, 20 ml | COC1=C(C=CC=C1)OC | C8H10O2
reactant | HCl | 1N, 200 ml | Cl | ClH
solvent | pentane | 300 ml | CCCCC | C5H12
product | 2-chloro-3',4'-dimethoxy-5-nitrobenzophenone | 12.5 g, yield: 78% | ClC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C15H12ClNO5
